US09193669B2
Et3N (1.2 mL) was added to a solution of N-(3-bromophenyl)-2-propylpentanamide (0.6 g, 2.01 mmol), tert-butyl allylcarbamate (1.026 g, 6.55 mmol) and P(o-tol)3 (0.06 g, 0.201 mmol) in DMF (10 mL). The reaction mixture was degassed for 30 min and then added Pd(OAc)2 (0.09 g, 0.409 mmol) was added. The reaction mixture was again degassed for 15 min and then refluxed at 90° C. for 8 h. The reaction mixture was diluted with EtOAc, washed with H2O, brine. The organic layer was concentrated under reduced pressure. Purification by column chromatography(100-200 mesh silica, elution 10% to 15% EtOAc in hexane) gave (E)-tert-butyl 3-(3-(2-propylpentanamido)phenyl)allylcarbamate as a yellow oil. Yield (0.7 g, 37%). 1H NMR (400 MHz, CDCl3) δ 7.65 (s, 1H), 7.43 (t, J=7.6 Hz, 1H), 7.24 (s, 1H), 7.08 (dd, J=1.2, 7.2 Hz, 2H), 6.48 (d, J=16.0 Hz, 1H), 6.26-6.16 (m, 1H), 4.67 (bs, 1H), 3.89 (bs, 2H), 2.17-2.04 (m, 1H), 1.73-1.64 (m, 4H), 1.48 (s, 9H), 1.45-1.14 (m, 4H), 0.91 (t, J=7.2 Hz, 6H).

reactant | Et3N | 1.2 mL | CCN(CC)CC | C6H15N
reactant | N-(3-bromophenyl)-2-propylpentanamide | 2.01 mmol, 0.6 g | BrC=1C=C(C=CC1)NC(C(CCC)CCC)=O | C14H20BrNO
reactant | tert-butyl allylcarbamate | 6.55 mmol, 1.026 g | C(C=C)NC(OC(C)(C)C)=O | C8H15NO2
reactant | P(o-tol)3 | 0.201 mmol, 0.06 g | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.409 mmol, 0.09 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-tert-butyl 3-(3-(2-propylpentanamido)phenyl)allylcarbamate | C(CC)C(C(=O)NC=1C=C(C=CC1)/C=C/CNC(OC(C)(C)C)=O)CCC | C22H34N2O3
